US05536442
11 g of NaOH (32%) are added to a solution of 8.2 of the resultant p-(trans-4-ethoxycyclohexyl)-o-flurophenol in 80 ml of THF and 13.8 g of chlorodifluoromethane are introduced (dry ice reflux condenser). After subsequently stirring for one hour, the solution is decanted off from the precipitate and concentrated to give a residue. Bulb tube distillation gives p-(trans-4-ethoxycyclohexyl)-o-fluorodifluoromethoxybenzene, b.p.1 ~220° C., Tg -62°.

reactant | NaOH | 11 g | [OH-].[Na+]
reactant | p-(trans-4-ethoxycyclohexyl)-o-flurophenol | C(C)O[C@@H]1CC[C@H](CC1)C1=CC(=C(C=C1)O)F | C14H19FO2
reactant | chlorodifluoromethane | 13.8 g | ClC(F)F | CHClF2
reactant | dry ice | C(=O)=O | CO2
solvent | THF | 80 ml | C1CCOC1 | C4H8O
product | p-(trans-4-ethoxycyclohexyl)-o-fluorodifluoromethoxybenzene | C(C)O[C@@H]1CC[C@H](CC1)C1=CC(=C(C=C1)OC(F)F)F | C15H19F3O2
